US08110687B2
A solution of 7-[(2-chloropyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (1.50 g, 4.94 mmol) and 1-(4-methoxyphenyl)-N-methylmethanamine (2.24 g, 14.8 mmol) in NMP (9 mL) was heated in a sealed tube at 150° C. for 40 hr. The reaction mixture was allowed to cool to rt and diluted with water and 1N HCl solution. The pH was adjusted to 4 by the addition of 1N NaOH solution. The mixture was extracted with EtOAc (3×) and the organic solutions were combined, washed with water and brine, dried over Na2SO4 and concentrated. The residue was purified by column chromatography to give 7-({2-[(4-methoxybenzyl)(methyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid as an off-white solid (581 mg, 28.1%). LCMS: (FA) ES+ 419.2, ES− 417.2.

reactant | 7-[(2-chloropyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 4.94 mmol, 1.50 g | ClC1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)O | C16H14ClNO3
reactant | 1-(4-methoxyphenyl)-N-methylmethanamine | 14.8 mmol, 2.24 g | COC1=CC=C(C=C1)CNC | C9H13NO
reactant | NaOH | 1N | [OH-].[Na+]
solvent | NMP | 9 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
product | 7-({2-[(4-methoxybenzyl)(methyl)amino]pyridin-4-yl}oxy)-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 581 mg, 28.1% | COC1=CC=C(CN(C2=NC=CC(=C2)OC2=CC=C3CCC(CC3=C2)C(=O)O)C)C=C1 | C25H26N2O4
